Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Malignant transformation of endometriosis - final pathology 
report pending.
 
Major Surgical or Invasive Procedure:
exploratory laparotomy, total abdominal hysterectomy, left 
salingo-oophrectomy, omentectomy, para-aortic lymph node biopsy, 
liver resection, cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ G0 with a history of fibroids and
endometriosis who presents today for consultation regarding a
large left adnexal mass identified on imaging. In ___ 
she
underwent an abdominal myomectomy with left ovarian cystectomy
for 27 fibroids and a 15-cm endometrioma. She reports recovering
well until around ___, when she started to experience
epigastric discomfort and occasional shortness of breath. She
underwent CTA of the chest to evaluate for PE, which was 
negative
and there was no lymphadenopathy or suspicious nodule seen. In
___, she got the heaviest period she has had since her
Mirena IUD was placed. She underwent endometrial biopsy on
___, which showed chronic endometritis. She was already
taking doxycycline for a positive Lyme titer while awaiting
confirmatory testing, but continued to have vaginal bleeding. 
Her
followup Lyme testing was negative.

She continued to feel quite fatigued and noted abdominal pain
epigastrically as well as in the LLQ, back pain, and decreased
appetite and constipation which got progressively more 
bothersome
during ___. She ultimately went to the ED on ___ where
she underwent CT scan of the abdomen and pelvis, which showed a
large 10-cm left complex adnexal cystic mass with septations and
irregular solid components.  Additionally, there were multiple
subcapsular hepatic lesions and peritoneal implants, as well as
retroperitoneal lymphadenopathy. Findings 
were concerning for a metastatic primary ovarian neoplasm, such
as cystadenocarcinoma, versus atypical distribution of
endometriotic implants. 

On ___ patient underwent an MRI of the abdomen and pelvis
lower thorax showed clear lung bases no focal consolidations no
pleural or pericardial effusion.  Liver showed multiple
nonenhancing cystic subcapsular implants likely representing
hemorrhage.  The largest right arises from the right lobe of the
liver and measured 4.1 x 2.8 cm.  There was no associated
enhancement likely represent adherent clot.  There were no
suspicious enhancing lesions intrinsic to the hepatic 
parenchyma.
Again, in regard to the pelvis, there was a large cystic
multiloculated left adnexal structure measuring up to 10.8 x 
10.1
cm.  The septations were thin without significant enhancement or
nodular components.  The loculations demonstrated fluid-filled
areas correction fluid-filled levels also likely representing
hemorrhage. Within one of the loculations, there was a dark spot
sign a finding that could be consistent with endometriosis.  A
smaller right adnexal cystic structure was seen measuring 3.5 x
3.0 cm.  Uterus was enlarged with multiple small fibroids and 
IUD
was seen within the endometrial cavity at.  There was a trace
free fluid within the pelvis multiple cystic anterior peritoneal
implants were visualized with fluid-filled levels likely
representing hemorrhage.  There was peripheral enhancement, 
which
may be reactive in nature. One of these peritoneal implants
appeared to have significant surrounding fat stranding.  A left
periaortic retroperitoneal lesion had a similar appearance. 
Multiple subcentimeter periaortic lymph nodes were nonspecific.
There was no inguinal or pelvic lymphadenopathy.

She saw Dr. ___ in the office on ___ and received a
1-month dose of Lupron. She was referred to ___ Oncology for
further evaluation given atypical imaging findings. 

Of note, she had a CA125 checked on ___, which was 108,
decreased from 209 in ___. CEA was 0.9 on ___.

Today she reports abdominal bloating, constipation, decreased
appetite and increased abdominal girth. She noted decreased
vaginal spotting since her Lupron shot, but it has been
persistent. She also reports continued fatigue and occasional
nausea. She denies chest pain, shortness of breath, diarrhea or
dysuria. 

 
Past Medical History:
GYN HX: 
G0
- LMP ___, only minor spotting while IUD in place except
when bleeding began in ___
- Currently sexually active with female partner
- ___ history of abnormal Pap smears; last Pap ___
- Denies history of pelvic infections or sexually transmitted
  infections
- Known history of fibroids and ovarian cysts
- Known endometriosis

PMH:
- allergic rhinitis
- depression
- pseudocholinesterase deficiency
- Denies hypertension, diabetes, asthma, thromboembolic disease

PSH: 
- ___ knee surgery
- ___ abdominal myomectomy
- ___ RSO, L ov cystectomy -> Path: endometriotic cyst with
focal metaplastic/reactive changes
- ___ abdominal myomectomy, LOA, L ovarian cystectomy -> Path:
leiomyomata with degenerative changes, endometriotic cyst

 
Social History:
___
Family History:
FHx: 
- Father living, hx of bladder, prostate, skin, and throat 
cancer
(non-smoker)
- Mother died age ___ of colon cancer, also had DM and glaucoma
- Brother is healthy
- Niece with cystic fibrosis
- No known family history of breast, uterine, ovarian, or
cervical

 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing exploratory laparaotomy, total abdominal 
hysterectomy, left salpingo-oophorectomy, omentectomy, 
para-aortic lymph node biopsy, liver resection and cystoscopy 
for malignant transformation of endometriosis. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with an epidural and 
Dilaudid PCA with toradol. Her diet was gradually advanced 
without difficulty and she was transitioned to oral oxycodone, 
Tylenol and ibuprofen. On post-operative day #2, her urine 
output was adequate so her Foley catheter was removed and she 
voided spontaneously. 

By post-operative day 5, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
duloxetine 60mg daily
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*2 
3.  Enoxaparin Sodium 30 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
Take this medication for a total of 28 days after your surgery, 
ending ___. 
RX *enoxaparin 30 mg/0.3 mL 30 mg SC twice a day Disp #*50 
Syringe Refills:*0 
4.  Ferrous GLUCONATE 324 mg PO DAILY 
RX *ferrous gluconate 324 mg (36 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*2 
5.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
do not drive or drink alcohol, causes sedation 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*50 Tablet Refills:*0 
7.  DULoxetine 60 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
malignant transformation of endometriosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions:  
.
Abdominal instructions:  
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.   
* If you have staples, they will be removed at your follow-up 
visit.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___